US08071593B2
Preparation of methyl 2-oxo-3-(2-oxo-2,3-dihydro-1H-benzimidazol-5-yl-methyl)-2,3-dihydrobenzoxazole-5-carboxylate
1.1 g (3.5 mmol) of methyl 3-(3,4-diaminobenzyl)-2-oxo-2,3-dihydrobenzoxazole-5-carboxylate and 626 mg (3.9 mmol) of 1,1′-carbonyldiimidazole are stirred at room temperature for 24 h in 10 ml of THF. The reaction mixture is added to 150 ml of water, and the resultant precipitate is filtered off with suction and dried in vacuo; product: 1.1 g; ESI: 340 (M+H).

reactant | methyl 3-(3,4-diaminobenzyl)-2-oxo-2,3-dihydrobenzoxazole-5-carboxylate | 3.5 mmol, 1.1 g | NC=1C=C(CN2C(OC3=C2C=C(C=C3)C(=O)OC)=O)C=CC1N | C16H15N3O4
reactant | 1,1′-carbonyldiimidazole | 3.9 mmol, 626 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 150 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 2-oxo-3-(2-oxo-2,3-dihydro-1H-benzimidazol-5-yl-methyl)-2,3-dihydrobenzoxazole-5-carboxylate | O=C1OC2=C(N1CC1=CC3=C(NC(N3)=O)C=C1)C=C(C=C2)C(=O)OC | C17H13N3O5
